Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with HTN, HLD, macular degeneration, prior history of 
ectopic
atrial rhythm with PAC's and PVC's on labetalol presenting with
episode of syncope. Patient was seen in ED ___ for 2 day
history of upper lip swelling concerning for lisinopril-induced
angioedema. Was treated with steroids, benadryl, and famotidine
with improvement of swelling after observation. Was discharged
with plan to stop home lisinopril and nortriptyline that had 
been
recently started for sensory neuropathy, and initiated on
amlodipine 5 mg daily for HTN. EMS called to house, reported to
be hypotensive initially to the 80's and given 250 cc NS with
response.

Since recent ED visit, patient has had 2 syncopal episodes as
described by his wife. She heard him have labored breathing and
found him sitting at the top of their staircase with his head
against the wall. Patient reports remembering getting up quickly
from a supine position and then feeling immediately dizzy and
lightheaded prior to passing out. He then syncopized for one
minute, woke up for ___ seconds, and then syncopized again for
30 seconds. He woke up with confusion and weakness of 1 minute 
in
duration. He states he remembers sitting at the top of the 
stairs
but is unable to remember the other events. Had associated
lightheadedness, diaphoresis, and one episode of emesis. He
denied any chest pain, SOB, palpitations, seizure-like activity,
loss of bladder/bowel continence, or post-ictal confusion.

Of note, patient is followed at ___ cardiology by Dr. ___ for ventricular and atrial ectopy, HTN, and HLD. In prior
workup he has demonstrated persistent ventricular ectopy on
exercise tolerance tests but without evidence of decreased
exercise tolerance. He has also been managed for atypical chest
pain thought respiratory in nature.
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
PVC
PAC
- TTE ___ with LVEF 55-60%
3. OTHER PAST MEDICAL HISTORY
SENSORY NEUROPATHY
MILD COGNITIVE IMPAIRMENT WITH MEMORY LOSS
URINARY FREQUENCY
MACULAR DEGENERATION
POSTERIOR VITREOUS DETACHMENT
DIVERTICULOSIS
ANEMIA
MILD COPD
 
Social History:
___
Family History:
Brother: ETOH use disorder, HTN
Father: Cancer
Mother: CAD/PVD, HTN
Sister: HTN
 
Physical ___:
ADMISSION EXAM:
===============
VS: Reviewed in eFlowsheets
GENERAL: Pleasant elderly M in NAD
HEENT: NCAT, MMM
CARDIAC: Irregularly irregular, no m/r/g
LUNGS: CTAB
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

DISCHARGE EXAM:
===============
VS: 24 HR Data (last updated ___ @ 344)
    Temp: 98.4 (Tm 98.8), BP: 137/71 (123-181/71-115), HR: 60
(60-83), RR: 16 (___), O2 sat: 95% (94-98), O2 delivery: Ra   
GENERAL: Pleasant elderly man sitting up in bed in no acute
distress
HEENT: NCAT, MMM
CARDIAC: Normal rate and rhythm. Normal S1 and S2. No murmurs,
rubs, or gallops.
LUNGS: CTAB. No wheezes, rhonchi or crackles.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:38PM   GLUCOSE-123* UREA N-26* CREAT-1.0 SODIUM-136 
POTASSIUM-4.3 CHLORIDE-95* TOTAL CO2-25 ANION GAP-16
___ 08:38PM   cTropnT-<0.01
___ 08:38PM   CK-MB-3
___ 08:38PM   CALCIUM-10.4* PHOSPHATE-3.6 MAGNESIUM-1.9
___ 08:38PM   WBC-8.0 RBC-4.25* HGB-14.0 HCT-40.3 MCV-95 
MCH-32.9* MCHC-34.7 RDW-12.3 RDWSD-42.3
___ 08:38PM   NEUTS-65.1 ___ MONOS-9.5 EOS-1.1 
BASOS-0.4 IM ___ AbsNeut-5.24 AbsLymp-1.91 AbsMono-0.76 
AbsEos-0.09 AbsBaso-0.03
___ 01:43PM   GLUCOSE-114* UREA N-30* CREAT-1.1 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-25 ANION GAP-16
___ 01:43PM   cTropnT-<0.01
___ 01:43PM   CALCIUM-10.0 PHOSPHATE-3.2 MAGNESIUM-2.0
___ 01:43PM   WBC-9.7 RBC-4.16* HGB-13.7 HCT-39.7* MCV-95 
MCH-32.9* MCHC-34.5 RDW-12.3 RDWSD-42.7
___ 01:43PM   PLT COUNT-134*
___ 01:43PM   ___ PTT-19.3* ___

PERTINENT LABS:
===============
___ 01:43PM BLOOD cTropnT-<0.01
___ 08:38PM BLOOD CK-MB-3
___ 08:38PM BLOOD cTropnT-<0.01
___ 08:00AM BLOOD TSH-1.1

DISCHARGE LABS:
===============
___ 07:50AM BLOOD WBC-8.2 RBC-4.19* Hgb-13.7 Hct-40.7 
MCV-97 MCH-32.7* MCHC-33.7 RDW-12.6 RDWSD-44.4 Plt ___
___ 07:50AM BLOOD Glucose-104* UreaN-26* Creat-1.1 Na-143 
K-4.4 Cl-102 HCO3-28 AnGap-13
___ 07:50AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.0

IMAGING AND DIAGNOSTICS:
========================
Transthoracic Echocardiogram Report 
CONCLUSION:
The left atrial volume index is normal. No thrombus/mass is seen 
in the body of the left atrium (best excluded by TEE) The right 
atrium is mildly enlarged. There is normal left ventricular wall 
thickness with a normal cavity size. There is normal regional 
and global left ventricular systolic function. Quantitative 3D 
volumetric left ventricular ejection fraction is 60 %. Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
left ventricular outflow tract gradient at rest or with 
Valsalva. No ventricular septal defect is seen. Tissue Doppler 
suggests a normal left ventricular filling pressure (PCWP less 
than 12mmHg). Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus diameter is normal for gender 
with normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
trace aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. No valvular 
systolic anterior motion (___) is present. There is trivial 
mitral regurgitation. The tricuspid valve leaflets appear 
structurally normal. There is physiologic tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is high normal. There is no pericardial effusion.
IMPRESSION: Normal biventricular wall thicknesses, cavity sizes, 
and regional/global systolic function. No structural cardiac 
cause of syncope identified.

MICROBIOLOGY:
=============
___ 1:45 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL.
 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
___ with HTN, HLD, macular degeneration, prior history of 
ectopicatrial rhythm with PAC's and PVC's on labetalol who 
presented for syncope and was found to have paroxysmal atrial 
fibrillation. 

CORONARIES: Unknown
PUMP: LVEF 55-60% (___)
RHYTHM: PVC/PAC's, A-fib

#Syncope
Per history, may have been overactive effect of new 
antihypertensive therapy leading to orthostasis, especially 
given SBP persistently below 100 while at ___, with SBP in 
120's at most recent ___ cardiology appointment in ___. History consistent with orthostasis. Potential for PE, 
although without evidence of DVT, troponins negative, and no 
evidence of tachycardia/hypoxia. EKG changed from one week ago, 
with more irregularity concerning for AF causing arrythmogenic 
syncope. Unlikely infectious given lack of fever, leukocytosis. 
Well's PE score 0. Description not suggestive of seizure. 
Initially held amlodipine and then restarted. Held 
triamterene-HCTZ during admission with plan to restart as 
outpatient. Changed labetalol for atrial fibrillation. Will 
restart in the outpatient setting as
tolerated.

#Paroxysmal atrial fibrillation
#History of PAC/PVC's
New rhythm on EKG concerning for atrial fibrillation. CHADS2VASC 
3 not on AC. Then repeat ECG on ___ afternoon with evidence of 
NSR. Will
still benefit from systemic AC in setting of pAF. Rate control 
with metoprolol tartrate 50mg BID. AC with rivaroxaban 20mg 
daily. Will need to stop saw ___ due to increased bleeding 
risk.

#HTN
Pressures usually around 120-130's. Changed lisinopril to 
amlodipine 1 week ago. Holding home BP meds for syncope workup. 
Patient with elevated SBP during admission. Restarted home 
amlodipine prior to discharge and home HCTZ-Triamterene at 
discharge.

#Abnormal CXR
Prior chest xrays from ___ and one week ago demonstrate 
hyperinflation concerning for mild COPD. Not on COPD-control
medications or acute control medications. PFT's referred to in
___ Atrius note but no formal report can be found.
-Albuterol PRN SOB/Wheezing
-Transitional Issue: Consider PFT's as an outpatient.

================
CHRONIC ISSUES:
================
#HLD: Continue home rosuvastatin

#GERD: Continue home omeprazole

====================
TRANSITIONAL ISSUES:
====================
[ ] new diagnosis of atrial fibrillation based on EKG, 
previously had frequent pACs and PVCs. Started on metoprolol and 
rivaroxaban
[ ] consider ___ monitoring for arrhythmia and to 
monitor for AF burden
[ ] consider PFTs as outpatient for hyperinflation seen on CXR

- New Meds: metoprolol, rivaroxaban
- Stopped/Held Meds: labetalol, saw ___ 
- Changed Meds: none
- Follow-up appointments: PCP, cardiology 
- ___ Follow-up Labs Needed: none
- Incidental Findings: hyperinflation on CXR concerning for 
COPD, Consider PFT's as an outpatient.

# CODE STATUS: Full (presumed)
# CONTACT: ___ (wife) - ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
5. Rosuvastatin Calcium 5 mg PO QPM 
6. Labetalol 200 mg PO BID 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. melatonin 5 mg oral QHS 
9. Multivitamins 1 TAB PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. saw ___ 160 mg oral Unknown 

 
Discharge Medications:
1.  Metoprolol Tartrate 50 mg PO BID  
2.  Rivaroxaban 20 mg PO DINNER  
3.  amLODIPine 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
7.  melatonin 5 mg oral QHS  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Rosuvastatin Calcium 5 mg PO QPM  
11.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
paroxysmal atrial fibrillation
syncope

SECONDARY DIAGNOSIS
====================
hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for an episode of fainting. You were found 
to have abnormal heart rhythm called atrial fibrillation.

What was done for me while I was in the hospital?  
- You had an ultrasound of your heart which showed normal 
pumping function and valves.
- You were started on a medicine metoprolol to help your heart 
rate and a medicine rivaroxaban to prevent clots from forming.

What should I do when I leave the hospital?  
- Please continue to take your medicines as prescribed and go to 
your follow up appointments with your primary care doctor and 
your cardiologist.

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___